US07723369B2
2-(4′-tert-Butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(4-iodo-phenyl)-1H-imidazole (191 mg, 0.3 mmol) was treated as described in general procedure R using L-norvaline (352 mg, 3 mmol) to give (S)-2-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-pentanoic acid, which was then treated as described in general procedure F to give (4S)-5-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-4-propyl-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 2-(4′-tert-Butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(4-iodo-phenyl)-1H-imidazole | 0.3 mmol, 191 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)I | C32H27Cl2IN2
reactant | L-norvaline | 3 mmol, 352 mg | N[C@@H](CCC)C(=O)O | C5H11NO2
product | (S)-2-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenylamino}-pentanoic acid | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N[C@H](C(=O)O)CCC | C37H37Cl2N3O2
